US04069319
A mixture of 194.4 of dipotassium N-cyano-dithioimidocarbonate, 150 ml of water, 1 liter of methanol and 126.7 g of benzyl chloride was stirred at room temperature for 1 hour and after filtering, methanol was evaporated from the filtrate 2.5 liters of water were added again to the residue and then 110 ml of 30% hydrogen peroxide were slowly added. The mixture was stirred for one half hour at 40° C and then 15 hours at 20° C. The mixture was acidified with hydrochloric acid and was vacuum filtered. The precipitate was crystallized from toluene to obtain 80 g of 3-hydroxy-5-benzylthio-1,2,4-thiadiazole melting at 125° C.

reactant | dipotassium N-cyano-dithioimidocarbonate | C(#N)N=C([S-])[S-].[K+].[K+]
reactant | water | 150 ml | O | H2O
reactant | benzyl chloride | 126.7 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | 1 liter | CO | CH4O
product | 3-hydroxy-5-benzylthio-1,2,4-thiadiazole | 80 g | OC1=NSC(=N1)SCC1=CC=CC=C1 | C9H8N2OS2
